US07348359B2
1-Bromo-2-ethoxy-3,5-diisopropyl-benzene (2.0 g, 7.01 mmol) was dissolved in ethylene glycol dimethyl ether (20 ml) and the mixture cooled to −78° C. t-Butyl lithium (8.66 ml, 1.7M, 14.7 mmol) dropwise to the mixture over 30 min., then the reaction was stirred for an additional 30 min. before 5-bromo-2-fluorobenzaldehyde (1.57 g, 7.71 mmol) was added in one portion. The reaction was allowed to warm to ambient temperature, then stirred overnight The mixture was poured into saturated ammonium chloride solution (100 mL), and extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over MgSO4 and concentrated in vacuo. The residue was purified flash column (5% ethyl acetate in hexanes) to give (5-bromo-2-fluoro-phenyl)-(2-ethoxy-3,5-diisopropyl-phenyl)-methanol, as a pale yellow oil (1.88 g, 66%). 1H NMR (250 MHz, CDCl3): δ 7.73 (dd, 1H, J=1.2, J=7.5), 7.42 (m, 1H), 7.11 (d, 1H, J=1.2), 6.95 (t, 1H, J=7.5), 6.85 (d, 1H, J=1.2), 6.35 (d, 1H, J=6.2), 3.84 (q, 2H, J=6.9), 3.30 (m, 1H), 3.07 (d, 1H, J=6.2), 2.85 (m, 1H), 1.47 (t, 3H, J=6.9), 1.25 (s, 6H), 1.20 (s, 6H). MS [EI+] 431, 433 (M+Na)+.

reactant | 1-Bromo-2-ethoxy-3,5-diisopropyl-benzene | 7.01 mmol, 2.0 g | BrC1=C(C(=CC(=C1)C(C)C)C(C)C)OCC | C14H21BrO
reactant | t-Butyl lithium | 14.7 mmol, 1.7M, 8.66 ml | C(C)(C)(C)[Li]
reactant | 5-bromo-2-fluorobenzaldehyde | 7.71 mmol, 1.57 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | ethylene glycol dimethyl ether | 20 ml | COCCOC | C4H10O2
product | (5-bromo-2-fluoro-phenyl)-(2-ethoxy-3,5-diisopropyl-phenyl)-methanol | BrC=1C=CC(=C(C1)C(O)C1=C(C(=CC(=C1)C(C)C)C(C)C)OCC)F | C21H26BrFO2
